US09238658B2
To a mixture of 6-fluoro-1-(piperidin-4-yl)indoline, prepared as in STEP 2 above (128 mg, 0.5 mmol) and 4-nitrophenyl(4-methylthiazol-2-yl)carbamate, prepared as in STEP 3 above (186 mg, 0.4 mmol, ca. 60% purity) in CH2Cl2 (3 mL) was added Et3N (0.28 mL, 2 mmol) at room temperature. The resulting mixture was stirred at room temperature for 3 h and was poured into EtOAc/H2O (20 mL/20 mL). The organic layer was dried (Na2SO4) and filtered. The solvent was removed by roto-evaporator and the resulting residue purified by silica gel chromatography using 40% EtOAc/hexane as the eluent to yield 4-(6-fluoroindolin-1-yl)-N-(4-methylthiazol-2-yl)piperidine-1-carboxamide as a white solid.

reactant | 6-fluoro-1-(piperidin-4-yl)indoline | FC1=CC=C2CCN(C2=C1)C1CCNCC1 | C13H17FN2
reactant | 4-nitrophenyl(4-methylthiazol-2-yl)carbamate | [N+](=O)([O-])C1=CC=C(C=C1)N(C([O-])=O)C=1SC=C(N1)C
reactant | Et3N | 2 mmol, 0.28 mL | CCN(CC)CC | C6H15N
reactant | EtOAc H2O | 20 mL | CCOC(=O)C.O
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 4-(6-fluoroindolin-1-yl)-N-(4-methylthiazol-2-yl)piperidine-1-carboxamide | FC1=CC=C2CCN(C2=C1)C1CCN(CC1)C(=O)NC=1SC=C(N1)C | C18H21FN4OS
